Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
"I've been more irritable."
 
Major Surgical or Invasive Procedure:
n/a
 
History of Present Illness:
___ is a ___ year old student at ___ with 
history
of major depressive disorder and social anxiety disorder who
presented to the ___ ED via ambulance after her friend alerted
EMS due to the patient's symptoms of suicidal ideation.

On initial interview the patient reported that she has been
experiencing worsening depressive symptoms and anxiety over the
past few weeks to months. She has had increasing thoughts of
self-harm via cutting as well suicidal ideation.  On the evening
of presentation the patient disclosed these feelings to her
friend who then alerted EMS.

The patient has a history of non-suicidal self-injurious 
behavior
via cutting her wrists. She first engaged in this behavior at 
age
___ years old. She previously explained that this behavior helps
to " release energy and emotions' and 'helps [her] cope.'" (per
Dr. ___ from ___.

She notes that her symptoms have worsened in the setting of 
acute
psychosocial stressors including a break-up this past fall and
somewhat strained relationship with friends.

The patient notes sleep disturbances in which she sometimes
sleeps very little (though still sleeps nightly) and other times
in which she sleeps more heavily. She also reports feeling
increasingly irritable and previously noted feelings of
hopelessness, guilt, and worthlessness. Recently she has been
eating less than normal for her with reported weight loss of
___ pounds over the past four to five months. She finds her
school work to be therapeutic and her family to be supportive.

PSYCHIATRIC REVIEW OF SYSTEMS: As per HPI. Patient currently
denies suicidal ideation or thoughts of self-harm. She denied
symptoms consistent with mania including decreased need for 
sleep
(other than that noted above), impulsivity (other than
self-harm), elevated mood or grandiosity. She also denied
symptoms consistent with psychosis including paranoia or
auditory/visual hallucinations.
   
ED COURSE: The patient was calm and cooperative and did not
require restraints.
   
Medication admins:
___ 09:07 PO Lorazepam 1 mg  
___ 11:44 PO/NG Sertraline 100 mg
___ 09:05 PO/NG Sertraline 100 mg
   
ROS: All systems reviewed and were negative. She specifically
denied chest pain, extremity pain, headache, or abdominal pain.  


 
Past Medical History:
PAST PSYCHIATRIC HISTORY: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
- Diagnoses: reportedly include Major Depressive disorder and
Social Anxiety disorder.
- Hospitalizations: One previous admission to a ___ 
medical
unit due to suicidal ideation. The patient reports that she was
not admitted to a psychiatric unit because she was "nervous" but
was on 1:1 sitter in the pediatric unit and was not treated for
any medical complain.
- Current treaters: Dr. ___ (___, ___)
- Medication trials: Lexapro (no longer takes), Zoloft 
(currently
prescribed though patient self-discontinued this medication two
to three weeks ago), Propanol (per patient's report).
- Self-injurious behavior: Patient has previously self-harmed by
cutting and burning. The first time she self-harmed was at ___
years old.
- Harm to others: Denies
  
PAST MEDICAL HISTORY: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
- Migraine headaches: The patient uses Relpax (Eletriptan) for
these headaches.

MEDICATIONS: This writer confirmed the following medication with
patient's pharmacy ___ Symphony (Phone: ___) on
___:
- Sertraline 100mg PO daily. The patient reports that she 
stopped
taking this medication two to three weeks ago.
   
Allergies: NKMA

FAMILY PSYCHIATRIC HISTORY: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
- No history of suicide attempts in the family.
- Potential alcohol use disorder history in father's family.
- Her maternal grandmother may have had history of Bipolar
Disorder.

SUBSTANCE USE HISTORY: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
- Alcohol: the patient reports she "rarely" consumes alcohol. In
the ED she reported drinking ___ alcoholic drinks (wine of
liquor) three times per month.
- Denies recreational drug or tobacco use.

FORENSIC HISTORY: Per Dr. ___ (___), confirmed
with patient and updated as relevant:
- Denies history of arrests or previous legal charges.

SOCIAL HISTORY: ___
Family History:
see above
 
Physical Exam:
PHYSICAL EXAMINATION:
VS: T: 98.6, BP: 117/79, HR: 63, R: 16, O2 sat: 99% on RA

 - General: Young female in NAD. Well-nourished, well-developed.
Appears stated age.
 - HEENT: Normocephalic, atraumatic. EOMI.
 - Neck: Supple.
 - Back: No significant deformity.
 - Lungs: CTA ___. No crackles, wheezes, or rhonchi.
 - CV: RRR, no murmurs/rubs/gallops. 
 - Abdomen: +BS, soft, nontender, nondistended. No palpable
masses or organomegaly.
 - Extremities: No clubbing, cyanosis, or edema.
 - Skin: No rashes. Multiple superficial, perpendicular cutting
wounds over palmar aspect of the left distal forearm ranging 
from
1.5 to 3 inches in length without surrounding erythema.

Neurological:
 - CN II-XII intact
 - Motor: Normal bulk and tone bilaterally. No abnormal
movements, no tremor. Strength: full power ___ throughout. No
dysdiadochokinesia.
 - Gait: Steady. Normal stance and posture. No truncal ataxia. 
 - Romberg: Negative.

Cognition: 
 - Wakefulness/alertness: awake and alert
 - Attention: intact to interview. Able to recite months of year
backward
 - Orientation: oriented to person, time, place, situation
 - Memory: intact to recent and past history. Aware of ongoing
election. Able to recall ___ objects after five minutes ___ 
with
prompting).
 - Fund of knowledge: consistent with education. Able to provide
___ as a play by ___.
 - Calculations: $0.45 = nine nickels
 - Abstraction: Apples and oranges are similar because they are
"fruit" and that buses and boats are similar because they are
"modes of transportation."
 - Speech: normal rate, volume, and tone
 - Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
 - Appearance: No apparent distress, appears stated age, well
groomed, appropriately dressed
 - Behavior: Calm, cooperative, engaged, friendly, pleasant, 
poor
eye contact, no psychomotor agitation or retardation
 - Mood and Affect: "Okay" / mildly dysphoric, full range,
appropriate to situation, congruent with mood
 - Thought Process: linear, coherent, goal-oriented. No LOA.
 - Thought Content: denies SI/HI/AH/VH, no evidence of delusions
or paranoia
 - Judgment and Insight: poor/poor

LABS, IMAGING, AND OTHER STUDIES (___):
- CBC: WBC 3.7, Hgb 11.4, Hct 33.6, Plt 325
- BMP: Glucose 99, BUN 5*, Cr 0.7, Na 145, K 3.9, Cl 110*, HCO3
24, AG 15
- UA: WNL
- Urine tox: Negative for benzos, barbituates, opiates, cocaine,
amphetamine, and methadone.
- Serum tox: Ethanol level 187 mg/dL. Negative for aspirin,
benzos, barbituates, TCAs and acetaminophen.

 
Pertinent Results:
___ 04:45AM URINE  UCG-NEGATIVE
___ 04:45AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:45AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 04:45AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 04:35AM   GLUCOSE-99 UREA N-5* CREAT-0.7 SODIUM-145 
POTASSIUM-3.9 CHLORIDE-110* TOTAL CO2-24 ANION GAP-15
___ 04:35AM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:35AM   WBC-3.7* RBC-3.96 HGB-11.4 HCT-33.6* MCV-85 
MCH-28.8 MCHC-33.9 RDW-12.2 RDWSD-37.0
___ 04:35AM   NEUTS-53.1 ___ MONOS-5.1 EOS-0.3* 
BASOS-0.8 IM ___ AbsNeut-1.97 AbsLymp-1.50 AbsMono-0.19* 
AbsEos-0.01* AbsBaso-0.03
___ 04:35AM   PLT COUNT-325
 
Brief Hospital Course:
On her first morning on Deac 4 she met with the whole team.
She was fairly distressed as she told
story of how she ended up here. Main stressors are her school
work, which she is never satisfied with, and her relationships
with others. She has only one local friend, a male roommate, 
with
whom she shares a cat. She feels that the rest of her roommates
may hate her. She feels lonely much of the time. Even when she
goes home she feels isolated. However, she'd glad that her
suicide attempt did not work because she wants to stay alive. 
Many of our meetings focused on the topic of loneliness - 
she has done little on campus but finds
it hard to motivate herself to do more. Pinning her hopes on the
medications. We steered her to think about psychotherapy and
committing to attend every week. 

She was also continued on her Zoloft, which was increased. We 
added
Remeron which she tolerated well,and which she said improved her
usually erratic sleep. She gradually brightened as she attended 
most
of the groups and spent much time with peers on the unit. By the
time of discharge she no longer had any active or passive SI. 
She
slept better and had more energy, and recognized how social
interaction had improved her outlook. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 100 mg PO DAILY 

 
Discharge Medications:
1. Sertraline 150 mg PO DAILY 
RX *sertraline 50 mg 3 tablet(s) by mouth qam Disp #*45 Tablet 
Refills:*1
2. HydrOXYzine 50 mg PO QHS 
RX *hydroxyzine HCl 50 mg 1 pill by mouth at bedtime Disp #*15 
Tablet Refills:*1
3. Mirtazapine 30 mg PO QHS 
RX *mirtazapine 30 mg 1 tablet(s) by mouth at bedtime Disp #*15 
Tablet Refills:*1
4. Sumatriptan Succinate 25 mg PO DAILY:PRN migraine 
RX *sumatriptan succinate 25 mg 1 tablet(s) by mouth once a day 
as needed Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depression
 
Discharge Condition:
Awake and alert. Under good behavioral control. Mood is 
brighter, more optimistic and full-range. Not labile. Thoughts 
are clear, goal-directed, and reality-based. He denies any 
suicidal thoughts or feelings. No hallucinations. 

 
Discharge Instructions:
Please take all meds at the right times.
Please keep all appointments.
 
Followup Instructions:
___